US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(6-diphenylmethyloxy-1H-indol-3-yl)-1,1-dimethylethyl]amine and then removing the protective group, gave [2-(6-hydroxy-1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride.

reactant | 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(C)C | C13H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(6-diphenylmethyloxy-1H-indol-3-yl)-1,1-dimethylethyl]amine | C1(=CC=CC=C1)C(OC1=CC=C2C(=CNC2=C1)CC(C)(C)N)C1=CC=CC=C1 | C25H26N2O
product | [2-(6-hydroxy-1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.OC1=CC=C2C(=CNC2=C1)CC(C)(C)NCCOC1=C(C=CC=C1)OCC(C)C | InChI=1S/C24H32N2O3.ClH/c1-17(2)16-29-23-8-6-5-7-22(23)28-12-11-26-24(3,4)14-18-15-25-21-13-19(27)9-10-20(18)21;/h5-10,13,15,17,25-27H,11-12,14,16H2,1-4H3;1H
